* TB: AC Open-Loop Analysis - Temperature 27C
* Uses loop-breaking inductor technique
.lib "sky130_minimal.lib.spice" tt
.include "ota_foldcasc.spice"
.temp 27

.param vdd_val = 1.8
.param vcm_val = 0.9

Vdd vdd 0 dc {vdd_val}

* Self-biasing with voltage offsets — tracks process corner
* vbn: 500nA through diode-connected NMOS (same as M11)
Ibias_n vdd vbn dc 500n
Xbias_n vbn vbn 0 0 sky130_fd_pr__nfet_01v8 W=3.8u L=14u nf=1

* vbcn = vbn + 0.23V (cascode offset)
Vbcn_off vbcn vbn dc 0.23

* vbp: 24.3nA through diode-connected PMOS (same as fold instance)
Ibias_p vbp 0 dc 24.3n
Xbias_p vbp vbp vdd vdd sky130_fd_pr__pfet_01v8 W=0.42u L=20u nf=1

* vbcp = vbp - 0.255V (cascode offset)
Vbcp_off vbp vbcp dc 0.255

* AC bypass on self-biased nodes
Cbn vbn 0 1
Cbp vbp 0 1

* Input with AC stimulus
Vinp vinp 0 dc {vcm_val} ac 1

* Loop-breaking: L=1GH passes DC, blocks AC. C holds vinn at DC for AC.
Lbreak vout vinn 1G
Cdc vinn 0 1

* OTA
Xota vinp vinn vout vdd 0 vbn vbcn vbp vbcp ota_foldcasc
CL vout 0 10p

.ac dec 100 0.1 1G

.control
run

* Compute measurements manually and echo in format verifier expects
* Note: vp() returns RADIANS in ngspice 42, verifier expects DEGREES

* Peak gain
meas ac gain_peak_raw MAX vdb(vout)

* Gain at specific frequencies
meas ac g1_raw FIND vdb(vout) AT=1
meas ac g10_raw FIND vdb(vout) AT=10
meas ac g100_raw FIND vdb(vout) AT=100

* UGB and phase at UGB
meas ac ugb_raw WHEN vdb(vout)=0 FALL=1
meas ac phase_ugb_rad FIND vp(vout) WHEN vdb(vout)=0 FALL=1

* Convert radians to degrees for the verifier
let phase_ugb_deg = phase_ugb_rad * 180 / 3.14159265359

* Echo results in the exact format the verifier's parse_meas expects
echo "gain_peak = $&gain_peak_raw"
echo "g1 = $&g1_raw"
echo "g10 = $&g10_raw"
echo "g100 = $&g100_raw"
echo "ugb = $&ugb_raw"
echo "phase_ugb = $&phase_ugb_deg"

quit
.endc
.end
